US05204333
A solution of 2-benzyloxymethyl-2-cyclobutylpropane-1,3-diol (49 g, 0.2 mol) in dry ether (200 ml) was added to liquid ammonia (450 ml) stirred at -70° C. Sodium pellets (14 g, 0.6 mol) were added and the stirred mixture was allowed to warm to -33° C. over 2 hours. Ammonium chloride (35 g, 0.65 mol) was added and the ammonia was allowed to evaporate overnight. The solid residue was extracted with ether, the extracts were combined, filtered and evaporated to leave 2-cyclobutyl-2-hydroxymethylpropane-1,3-diol as an oil (27.9 g, 87%) which was purified on a silica column eluting with chloroform then increasing amounts of chloroform:methanol (up to 9:1 v/v).

reactant | 2-benzyloxymethyl-2-cyclobutylpropane-1,3-diol | 0.2 mol, 49 g | C(C1=CC=CC=C1)OCC(CO)(CO)C1CCC1 | C15H22O3
reactant | ammonia | 450 ml | N | H3N
reactant | Sodium | [Na] | Na
reactant | Ammonium chloride | 0.65 mol, 35 g | [Cl-].[NH4+]
solvent | ether | 200 ml | CCOCC | C4H10O
product | 2-cyclobutyl-2-hydroxymethylpropane-1,3-diol | 27.9 g, 87% | C1(CCC1)C(CO)(CO)CO | C8H16O3
